US05256633
4-Ethoxycarbonyl-2-methylthiothiazole-5-carboxylic acid
At room temperature, a solution of 1.10 g (27.5 mmol) of sodium hydroxide in 10 ml of water was added over a period of one hour to a solution of 7.00 g (25 mmol) of diethyl 2-methylthiothiazole-4,5-dicarboxylate in 100 ml of ethanol/water (2:1). The mixture was stirred for one hour, the solvent mixture was then removed under reduced pressure, the residue was taken up in 100 ml of water, the solution was extracted once with 50 ml of diethyl ether, and the aqueous phase was acidified with concentrated hydrochloric acid. The precipitated product was filtered off and dried.

reactant | sodium hydroxide | 27.5 mmol, 1.10 g | [OH-].[Na+]
reactant | diethyl 2-methylthiothiazole-4,5-dicarboxylate | 25 mmol, 7.00 g | CSC=1SC(=C(N1)C(=O)OCC)C(=O)OCC | C10H13NO4S2
solvent | water | 10 ml | O | H2O
solvent | ethanol water | 100 ml | C(C)O.O
product | 4-Ethoxycarbonyl-2-methylthiothiazole-5-carboxylic acid | C(C)OC(=O)C=1N=C(SC1C(=O)O)SC | C8H9NO4S2
